US06933311B2
N-[2-(3-fluorophenyl)ethyl]-N′-isoquinolin-5-ylurea
The product from Example 1A (0.65 g, 2.25 mmol), DBU (0.85 g, 5.6 mmol) and 2-(3-fluorophenyl)ethylamine (0.35 g, 2.5 mmol) in acetonitrile (50 mL) were refluxed for 10 hours. The mixture was cooled, concentrated, diluted with ethyl acetate, washed twice with aqueous ammonium chloride and concentrated to dryness. The solid obtained was suspended in ethyl acetate and filtered to obtain 0.45 g (65%) of the title compound as a tan solid. 1H NMR (300 MHz, d6-DMSO) δ 9.27 (s, 1H), 8.63 (s, 1H), 8.51 (d, 1H), 8.26 (d, 1H), 7.89 (d, 1H), 7.71 (d, 1H), 7.59 (m, 1H), 7.35 (m, 1H), 7.18-7.0 (m, 3H), 6.60 (t, 1H), 3.42 (m, 2H), 2.72 (m, 2H); MS (DCI/NH3) m/z 310 (M+H)+; Anal. Calcd. For C18H16N3FO.0.1H2O: C, 69.48; H, 5.25; N, 13.51. Found: C, 69.31; H, 5.25; N, 13.46.

reactant | DBU | 5.6 mmol, 0.85 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-(3-fluorophenyl)ethylamine | 2.5 mmol, 0.35 g | FC=1C=C(C=CC1)CCN | C8H10FN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-[2-(3-fluorophenyl)ethyl]-N′-isoquinolin-5-ylurea | 0.45 g, 65% | FC=1C=C(C=CC1)CCNC(=O)NC1=C2C=CN=CC2=CC=C1 | C18H16FN3O
